US06472397B1
To a solution 42.5 g of 2-oxopiperazine synthesized according to the method described in J. Am. Chem. Soc., 62, 1202 (1940) in 500 ml of N,N-dimethylformamide were added 59.2 ml of trimethylamine and 97.5 ml of di-t-butyl dicarbonate dropwise in this sequence at room temperature, and the mixture was stirred at room temperature for 20 hours. The reaction mixture was diluted with 50 ml of water and stirred at room temperature for 10 minutes, and N,N-dimethylformamide and water were removed by distillation under reduced pressure. The residue thus obtained was washed with diethyl ether to give 39.7 g (47%) of 1-t-butyloxycarbonyl-3-oxopiperazine.

reactant | 2-oxopiperazine | 42.5 g | O=C1NCCNC1 | C4H8N2O
reactant | trimethylamine | 59.2 ml | CN(C)C | C3H9N
reactant | di-t-butyl dicarbonate | 97.5 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-t-butyloxycarbonyl-3-oxopiperazine | 39.7 g, 47% | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
